US06355653B1
(2-Phenyl-7-pyridin-4yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-carbamic acid ethyl ester
The title compound, MS m/e (%): 360 (M+H+, 100), was prepared in accordance with the general method of example 27 from 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine and ethyl chloroformate.

reactant | 2-phenyl-7-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2N)C2=CC=NC=C2)=N1 | C17H13N5
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | (2-Phenyl-7-pyridin-4yl-[1,2,4]triazolo[1,5-a]pyridin-5-yl)-carbamic acid ethyl ester | C(C)OC(NC1=CC(=CC=2N1N=C(N2)C2=CC=CC=C2)C2=CC=NC=C2)=O | C20H17N5O2
